US08912330B2
6-bromo-1H-pyrrolo[3,2-b]pyridin-1-amine:
To a solution of 6-Bromo-1H-pyrrolo[3,2-b]pyridine (1.9 g, 10 mmol) in 20 mL of DMF at 0° C. was added NaH (60% in oil, 0.49 g, 12 mmol) in three portions. The mixture was stirred at room temperature for 30 min. A solution of NH2Cl in Et2O (prepared according to the procedure described in J. Org. Chem. 2004, 1371: ˜0.15 M, 80 mL) was added at −20° C. The mixture was warmed up to room temperature for 15 min and was poured into a saturated solution of thiosulfate and ammonium chloride, and extracted with ethyl acetate. The organic layer was concentrated and the residue washed with small amount of ethyl acetate to give pink solid (1.3 g, 62% yield)

reactant | 6-Bromo-1H-pyrrolo[3,2-b]pyridine | 10 mmol, 1.9 g | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
reactant | NaH | 12 mmol, 0.49 g | [H-].[Na+]
reactant | NH2Cl | NCl | ClH2N
reactant | thiosulfate | S(=S)(=O)([O-])[O-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 6-bromo-1H-pyrrolo[3,2-b]pyridin-1-amine | 1.3 g, 62% yield | BrC=1C=C2C(=NC1)C=CN2N | C7H6BrN3
